US06479495B1
2-[4-(Dimethylaminocarbonyloxy)-3-(methoxy)phenylmethyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline
To a solution of 4-(dimethylaminocarbonyloxy)-3-(methoxy)benzaldehyde (1.02 g) in 1,2-dichloroethane (16 ml) was added 6,7-dimethoxytetrahydroisoquinoline(0.97 g) and sodium triacetoxyborohydride (1.35 g), with stirring. The mixture was stirred at ambient temperature for 1 hr, poured onto ice/sodium carbonate solution and extracted with ethyl acetate. The extracts were washed with water, saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated. The residue was dissolved in dichloromethane and flash column chromatographed (silica gel), eluting with dichloromethane, 1% and 2% methanol dichloromethane. The appropriate fractions were collected and concentrated to give 0.92 g (50.3%/o) of product. Recrystallization from ethyl acetate gave the analytical sample, mp 126-128° C.

reactant | 4-(dimethylaminocarbonyloxy)-3-(methoxy)benzaldehyde | 1.02 g | CN(C(=O)OC1=C(C=C(C=O)C=C1)OC)C | C11H13NO4
reactant | 6,7-dimethoxytetrahydroisoquinoline | 0.97 g | COC=1C=C2CCNCC2=CC1OC | C11H15NO2
reactant | sodium triacetoxyborohydride | 1.35 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 16 ml | ClCCCl | C2H4Cl2
product | 2-[4-(Dimethylaminocarbonyloxy)-3-(methoxy)phenylmethyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | CN(C(=O)OC1=C(C=C(C=C1)CN1CC2=CC(=C(C=C2CC1)OC)OC)OC)C | C22H28N2O5
